US05661108
A stirred solution of 6.6 grams (0.023 mole) of 1-methyl-3-(4-aminophenyl)-6-trifluoromethyluracil in 100 mL of trifluoroacetic acid was cooled to 0°-5° C., and 5.3 grams (0.025 mole) of trifluoroacetic anhydride was added dropwise. Upon completion of the addition, the reaction mixture was stirred at ambient temperature for about two hours. After this time the reaction mixture was poured into ice water, and the resultant solid was collected by filtration. The solid was dried, yielding 5.8 grams of 1-methyl-3-[4-(trifluoromethylcarbonylamino)phenyl]-6-trifluoromethyluracil. The NMR spectrum was consistent with the proposed structure.

reactant | 1-methyl-3-(4-aminophenyl)-6-trifluoromethyluracil | 0.023 mole, 6.6 grams | CN1C(=O)N(C(=O)C=C1C(F)(F)F)C1=CC=C(C=C1)N | C12H10F3N3O2
reactant | trifluoroacetic anhydride | 0.025 mole, 5.3 grams | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-methyl-3-[4-(trifluoromethylcarbonylamino)phenyl]-6-trifluoromethyluracil | 5.8 grams | CN1C(=O)N(C(=O)C=C1C(F)(F)F)C1=CC=C(C=C1)NC(=O)C(F)(F)F | C14H9F6N3O3
